US09238667B2
Synthesis of benzyl 3-(1-((4-chlorophenyl)amino)-2-methoxyethylidene)-2-oxopyrrolidine-1-carboxylate
Into a 200 mL four-mouthed flask were added benzyl 3-(2-methoxyacetyl)-2-oxopyrrolidine-1-carboxylate potassium salt (6.60 g) [mw. 329.39, 20.0 mmol], 1 mol/L aqueous hydrochloric acid solution (33 mL) and toluene (60 mL), and the mixture was stirred at room temperature for 30 min. After partitioning, the organic layer was washed with water (33 mL), and dried over magnesium sulfate. After filtration, p-chloroaniline (2.56 g) [mw. 127.57, 20.0 mmol], p-toluenesulfonic acid monohydrate (0.038 g) [mw. 190.22, 0.2 mmol] and cyclohexane (33 mL) were added. Dean-Stark trap was set, and distillation by thermal dehydration was performed for 90 min. After cooling to room temperature, 5 w/w % aqueous acetic acid solution (33 mL) was added to allow for partitioning. The organic layer was washed successively with 5 w/w % aqueous sodium bicarbonate solution (33 mL) and water (33 mL), further washed with water (33 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure. To the concentrate were added methanol (q.s.) and activated carbon (1 g), and the mixture was stirred at room temperature for 30 min. After filtration, the mother liquor was concentrated under reduced pressure. The concentrate was purified by basic silica gel column (silica gel amount; 25 g, eluent:toluene, Rf=0.2), and the effective fraction was concentrated under reduced pressure. The concentrate was dissolved in ethyl acetate (3 mL) and diisopropyl ether (30 mL). The mixture was cooled in a freezer to produce crystal core. The mixture was suspended by stirring at room temperature for 1 hr. After filtration under reduced pressure, the crystals were washed with a mixed solvent of ethyl acetate/diisopropyl ether (1/10) (10 mL), and dried at 45° C. under reduced pressure to give the object compound. Pale-yellow white crystal, 2.50 g, yield 31.2%, 1H-NMR (500 MHz, CDCl3, TMS) δ 2.78 (t, J=7.5 Hz, 2H), 3.34 (s, 3H), 3.81 (t, J=8.0 Hz, 2H), 3.99 (s, 2H), 5.29 (s, 2H), 7.03-7.05 (m, 2H), 7.25-7.44 (m, 7H), 10.50 (s, 1H). 13C-NMR (125 MHz, CDCl3, CDCl3) δ 20.95, 43.61, 58.53, 67.71, 67.96, 99.68, 123.83, 128.11, 128.25, 128.57, 129.28, 129.67, 135.81, 138.06, 149.88, 152.23, 169.93.

reactant | benzyl 3-(2-methoxyacetyl)-2-oxopyrrolidine-1-carboxylate potassium salt | 20.0 mmol, 6.60 g | [K].COCC(=O)C1C(N(CC1)C(=O)OCC1=CC=CC=C1)=O
reactant | hydrochloric acid | 1 mol/L, 33 mL | Cl | ClH
reactant | p-chloroaniline | 20.0 mmol, 2.56 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | p-toluenesulfonic acid monohydrate | 0.2 mmol, 0.038 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | cyclohexane | 33 mL | C1CCCCC1 | C6H12
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl 3-(1-((4-chlorophenyl)amino)-2-methoxyethylidene)-2-oxopyrrolidine-1-carboxylate | yield 31.2% | ClC1=CC=C(C=C1)NC(COC)=C1C(N(CC1)C(=O)OCC1=CC=CC=C1)=O | C21H21ClN2O4
